US04289777
(E) 1,3-BIS(4-NITROPHENOXY)-2-PROPANOL
8.86 g. (63.7 mmol) of 4-nitrophenol is dissolved in 250 ml. of isopropanol; 2.75 ml. (35.1 mmol) of epichlorohydrin is added thereto, and thereafter a solution of 1.98 g. (35.3 mmol) of potassium hydroxide in 25 ml. of isopropanol as well as 1 ml. of water are introduced. The mixture is refluxed for 48 hours, concentrated to half its volume, and combined with 50 ml of water. The thus-precipitated product is filtered off and recrystallized from isopropanol/ethanol 1:1. Melting point: 144°-145° C. Yield: 6.4 g.

reactant | 4-nitrophenol | 63.7 mmol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | epichlorohydrin | 35.1 mmol | C(Cl)C1CO1 | C3H5ClO
reactant | potassium hydroxide | 35.3 mmol | [OH-].[K+]
solvent | water | O | H2O
product | 1,3-BIS(4-NITROPHENOXY)-2-PROPANOL | [N+](=O)([O-])C1=CC=C(OCC(COC2=CC=C(C=C2)[N+](=O)[O-])O)C=C1 | C15H14N2O7
